US08497281B2
Step 3: 3-bromo-2-phenethyl-pyridine
Tetrakis(triphenylphosphine)palladium(0) (2.0 g) is added to a flask charged with a stir bar, phenethylzinc bromide (0.5 mol/L in tetrahydrofuran, 100 mL), 2,3-dibromopyridine (10.50 g), and tetrahydrofuran (100 ml) and kept under argon atmosphere at room temperature. The resulting mixture is stirred at room temperature for 3 h and at 40° C. for another 16 h. After cooling the mixture to room temperature, the solvent is evaporated and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 90:10→75:25) to afford the title compound as an oil that solidified upon treatment with ether. Yield: 9.32 g (81% of theory); LC (method 1): tR=4.28 min; Mass spectrum (ESI+): m/z=262/264 (Br) [M+H]+.

reactant | phenethylzinc bromide | 0.5 mol/L, 100 mL | [Br-].C(CC1=CC=CC=C1)[Zn+]
reactant | 2,3-dibromopyridine | 10.50 g | BrC1=NC=CC=C1Br | C5H3Br2N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-bromo-2-phenethyl-pyridine | BrC=1C(=NC=CC1)CCC1=CC=CC=C1 | C13H12BrN
